US05179216
The N-t-butylbenzyl-N-(1-methylhexyl)amine was synthesized in the same manner as in Example 2, procedures 1 and 2 using 4-t-butylbenzoyl chloride and 2-aminoheptane as starting materials.

reactant | 4-t-butylbenzoyl chloride | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | 2-aminoheptane | NC(C)CCCCC | C7H17N
product | N-t-butylbenzyl-N-(1-methylhexyl)amine | C(C)(C)(C)N(C(CCCCC)C)CC1=CC=CC=C1 | C18H31N
